US05654299
c. 4-(2-Methylthiophenyl)piperidine
A mixture of 1-benzyloxycarbonyl-4-(2-methylthiophenyl)piperidine (0.34 g) and thioanisole (0.58 mL) was treated with trifluoroacetic acid (5 mL) and the mixture was heated to 60° C. for 30 minutes. At the end of this period, the reaction mixture was evaporated and diluted with ether. Extraction with water, neutralization of the aqueous layer with sodium bicarbonate and extraction with ethyl acetate afforded the crude product. This material was purified by column chromatography; elution with 19:1 dichloromethane:methanol containing 5% triethylamine afforded the named product (0.13 g); MS: 208 (M+1): NMR: 1.4-1.8 (q, d, J1 =25, J2 =12, 2), 1.8-1.9 (m, 2), 2.46 (s, 3), 2.8-2.9 (d, t, J1 =12, J2 =2.7, 2), 3.1-3.2 (m, 1), 3.3 (br, 2), 4.0 (br, 1), 7.1-7.3 (m, 4).

reactant | 1-benzyloxycarbonyl-4-(2-methylthiophenyl)piperidine | 0.34 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC | C20H23NO2S
reactant | thioanisole | 0.58 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-Methylthiophenyl)piperidine | 0.13 g | CSC1=C(C=CC=C1)C1CCNCC1 | C12H17NS
